US08809382B2
Step 4: 5-(5-Chloro-2-heptyl-1-methyl-1H-indol-3-yl)-3-methyl-5-oxo-pentanoic acid
To the solution of 5-chloro-2-heptyl-1-methyl-1H-indole in methylene chloride at 0° C. was added dimethyl aluminum chloride solution in hexane. The reaction mixture was stirred for 30 minutes. To this solution 4-methyl-dihydro-pyran-2,6-dione was added at 0° C. and the reaction mixture was stirred for 3 hours. The reaction was quenched with saturated ammonium chloride solution and extracted with ethyl acetate. The product was purified by column chromatography.

reactant | 5-chloro-2-heptyl-1-methyl-1H-indole | ClC=1C=C2C=C(N(C2=CC1)C)CCCCCCC | C16H22ClN
reactant | dimethyl aluminum chloride | [Cl-].C[Al+]C
reactant | 4-methyl-dihydro-pyran-2,6-dione | CC1CC(OC(C1)=O)=O | C6H8O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | 5-(5-Chloro-2-heptyl-1-methyl-1H-indol-3-yl)-3-methyl-5-oxo-pentanoic acid | ClC=1C=C2C(=C(N(C2=CC1)C)CCCCCCC)C(CC(CC(=O)O)C)=O | C22H30ClNO3
